US07402595B2
2-benzyl-6-cyano-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
A mixture of 2-benzyl-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (300 mg), zinc cyanide (50 mg), tetrakis(triphenylphosphine)palladium(0) (35 mg) and 1-methyl-2-pyrrolidone (6 ml) was stirred at 100° C. under an argon atmosphere for 2 hrs. Water was added to the reaction mixture, and the mixture was extracted with a mixture of ethyl acetate and THF. The organic layer was washed with aqueous ammonia, water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate) and recrystallized (ethyl acetate-hexane) to give the title compound (230 mg).

reactant | 2-benzyl-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 300 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=CC=C1 | C24H18BrNO3
reactant | 1-methyl-2-pyrrolidone | 6 ml | CN1C(CCC1)=O | C5H9NO
catalyst | zinc cyanide | 50 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 35 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Water | O | H2O
product | 2-benzyl-6-cyano-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 230 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C#N)=O)CC1=CC=CC=C1 | C25H18N2O3
